US06906072B1
Example 25 1-[4-cyano-5-methyl-4-(2-naphthyl)hexyl]-4-[2-(4-fluorophenoxy)ethyl]piperazine
In acetonitrile (5 ml) was dissolved 310 mg (1.16 mmol) of 4-cyano-5-methyl-4-(2-naphthyl)hexanol, followed by adding 190 μL (1.36 mmol) of triethylamine and 105 μl (1.36 mmol) of mesyl chloride. After completion of mesylation, 1.11 g (7.38 mmol) of sodium iodide, 255 mg (1.85 mmol) of potassium carbonate, 414 mg (1.85 mmol) of 1-[2-(4-fluorophenoxy) ethyl]piperazine, 5 ml of dimethylformamide and 1 ml of water were added thereto, followed by heating to 60° C. After completion of the reaction, brine was added thereto and the objective product was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a crude product. The crude product was subjected to (NH) silica gel (eluted with ethyl acetate/hexane=2/3), to give 384 mg (0.81 mmol, 69.9%) of the title compound as a yellow syrup.

reactant | 4-cyano-5-methyl-4-(2-naphthyl)hexanol | 1.16 mmol, 310 mg | C(#N)C(CCCO)(C(C)C)C1=CC2=CC=CC=C2C=C1 | C18H21NO
reactant | triethylamine | 1.36 mmol, 190 μL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 1.36 mmol, 105 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium iodide | 7.38 mmol, 1.11 g | [I-].[Na+]
reactant | potassium carbonate | 1.85 mmol, 255 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[2-(4-fluorophenoxy) ethyl]piperazine | 1.85 mmol, 414 mg | FC1=CC=C(OCCN2CCNCC2)C=C1 | C12H17FN2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | water | 1 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[4-cyano-5-methyl-4-(2-naphthyl)hexyl]-4-[2-(4-fluorophenoxy)ethyl]piperazine | 0.81 mmol, 384 mg, 69.9% | C(#N)C(CCCN1CCN(CC1)CCOC1=CC=C(C=C1)F)(C(C)C)C1=CC2=CC=CC=C2C=C1 | C30H36FN3O
